US08735384B2
A solution of 2-bromo-3-methylbenzoic acid (344 mg, 1.6 mmol) and HATU (913 mg, 2.400 mmol) in DMF (10 mL) was stirred for 10 min at RT. 2,2-Dimethylmorpholine hydrochloride (364 mg, 2.400 mmol) and 1,1′-dimethyl triethylamine (2.23 mL, 12.80 mmol) were added and the reaction mixture was allowed to stir for 4 h at RT Ammonium chloride solution and EtOAc was added. The organic phase was separated and washed twice with brine. The organic phase was dried over MgSO4 and the solvent was removed under reduced pressure. The remaining residue was purified by flash chromatography (40-100% EtOAc/hexanes). (2-Bromo-3-methylphenyl)(2,2-dimethylmorpholino)methanone was obtained as a yellow oil.

reactant | 2-bromo-3-methylbenzoic acid | 1.6 mmol, 344 mg | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | HATU | 2.400 mmol, 913 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2,2-Dimethylmorpholine hydrochloride | 2.400 mmol, 364 mg | Cl.CC1(CNCCO1)C
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2-Bromo-3-methylphenyl)(2,2-dimethylmorpholino)methanone | BrC1=C(C=CC=C1C)C(=O)N1CC(OCC1)(C)C | C14H18BrNO2
